US08957074B2
Following general amide formation method 3, 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid (385 mg, 0.97 mmole) was combined with 8-Oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester (215 mg, 0.887 mmol) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester (323 mg, 0.522 mmol) in 59% yield. MS 619.7 (M+H)+.

reactant | 6-(7-cyclopentyl-6-(dimethylcarbamoyl)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)nicotinic acid | 0.97 mmole, 385 mg | C1(CCCC1)N1C(=CC2=C1N=C(N=C2)NC2=NC=C(C(=O)O)C=C2)C(N(C)C)=O | C20H22N6O3
reactant | 8-Oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester | 0.887 mmol, 215 mg | C(C)(C)(C)OC(=O)N1C2CNCCC1COC2 | C12H22N2O3
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-8-oxa-3,10-diaza-bicyclo[4.3.1]decane-10-carboxylic acid tert-butyl ester | 0.522 mmol, 323 mg, 59% yield | C(C)(C)(C)OC(=O)N1C2CN(CCC1COC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C32H42N8O5
